US06693123B2
4-Nitro-2-(2-methylphenyl)benzoic acid (2.31 g, 9 mmol), prepared as in Example 178B, was coupled with L-methionine methyl ester (1.0 eq) in the presence of ethyl dimethylaminopropyl carbodiimide hydrochloride (EDCI, 1.0 eq) and 3-hydroxy-1,2,3-benzotriazin-4(3H)-one (HOBT, 1.0 eq) to give [4-nitro-2-(2-methylphenyl)benzoyl]methionine methyl ester as a pale yellow oil (3.54 g, 98% yield); 1H NMR showed diastereomers due to restricted carbon-carbon bond rotation; 1H NMR (CDCl3) δ 8.26-8.30 (d, J=8.5 Hz, 1H), 8.10 (s, 1H), 8.03-8.09 (m, 1H), 7.27-7.42 (m, 3.5H), 7.18 (d, J=7.4 Hz, 0.5H), 6.03 (br, 1H, amide), 4.59-4.67 (m, 1H), 3.67 (s, 3H), 2.23 (s, 1.5H, PhCH3), 2.06 (s, 1.5H, PhCH3), 1.98-2.03 (m, 5H), 1.81-1.93 (m, 1H), 1.59-1.69 (m, 1H).

reactant | 4-Nitro-2-(2-methylphenyl)benzoic acid | 9 mmol, 2.31 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C14H11NO4
reactant | L-methionine methyl ester | 1.0 eq | COC([C@@H](N)CCSC)=O | C6H13NO2S
reactant | ethyl dimethylaminopropyl carbodiimide hydrochloride | 1.0 eq | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-hydroxy-1,2,3-benzotriazin-4(3H)-one | 1.0 eq | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
product | [4-nitro-2-(2-methylphenyl)benzoyl]methionine methyl ester | 3.54 g, 98% yield | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)=O)CCSC)=O | C20H22N2O5S
